US04837394
Bis(4-acetoxyphenyl)phenylphosphine
A mixture of 18.76 g (0.05 mol) of bis(4-hydroxyphenyl)phenylphosphine hydrobromide, 9.1 g (0.11 mol) of sodium acetate and 61 ml of acetic anhydride was heated at reflux for 4 hr and cooled. The mixture was poured onto a mixture of ice and water and the resultant solid was collected and recrystallized from methanol. The yield of bis(4-acetoxyphenyl)phenylphosphine was 4.9 g (25.9% of theory); mp=118°-20° C.

reactant | bis(4-hydroxyphenyl)phenylphosphine hydrobromide | 0.05 mol, 18.76 g | Br.OC1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=C(C=C1)O
reactant | sodium acetate | 0.11 mol, 9.1 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 61 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | Bis(4-acetoxyphenyl)phenylphosphine | C(C)(=O)OC1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=C(C=C1)OC(C)=O | C22H19O4P
